US03932466
2-amino-6-chloro-4-oxo-4H-1-benzopyran-3-carbonitrile.
-- In the same way as described in Example 3, 2-acetoxy-5-chlorobenzoyl chloride and malononitrile are reacted to give crystals, mp 340°C.

reactant | 2-acetoxy-5-chlorobenzoyl chloride | C(C)(=O)OC1=C(C(=O)Cl)C=C(C=C1)Cl | C9H6Cl2O3
reactant | malononitrile | C(CC#N)#N | C3H2N2
product | 2-amino-6-chloro-4-oxo-4H-1-benzopyran-3-carbonitrile | NC=1OC2=C(C(C1C#N)=O)C=C(C=C2)Cl | C10H5ClN2O2
